US05534250
p) Methylene bis[p-(hydroxymethylethynyl)benzoate]
Bis (triphenylphosphine)palladium dichloride (17.0 mg, 0.02 mmol) and cuprous iodide (2.0 mg, 0.01 mmol) are added to a suspension of methylene bis (p-bromobenzoate) prepared as described in Example 4 (n) (0.500 g, 1.21 mmol) and propargyl alcohol (0.16 ml, 2.66 mmol) in triethylamine (10 ml) with good stirring, at 20° C., under a dry N2 atmosphere. After 10 days at 20° C., the triethylamine is removed under reduced pressure, water (20 ml) is added and the mixture is extracted with dichloromethane (3×15 ml). The dichloromethane phases are washed with hydrochloric acid (0.5M, 10 ml), dried (MgSO4) and the dichloromethane removed under reduced pressure to give 0.37 g (85%) of the crude product. 1H NMR (60 MHz, CDCl3): δ 3.67 (2 H, s, OH), 4.47 (4 H, s, CH2 --O), 6.18 (2 H, s, O--CH2 --O), 7.2-7.5 (4 H, Ar), 7.8-8.0 (4 H, Ar).

reactant | methylene bis (p-bromobenzoate) | BrC1=CC=C(C(=O)OCOC(C2=CC=C(C=C2)Br)=O)C=C1 | C15H10Br2O4
reactant | propargyl alcohol | 2.66 mmol, 0.16 ml | C(C#C)O | C3H4O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | Bis (triphenylphosphine)palladium dichloride | 0.02 mmol, 17.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methylene bis[p-(hydroxymethylethynyl)benzoate] | 0.37 g, 85% | OCC#CC1=CC=C(C(=O)OCOC(C2=CC=C(C=C2)C#CCO)=O)C=C1 | C21H16O6
